US08633180B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-thione
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one (36.1 mg, 0.055 mmol) and P4S10 are placed in a Biotage microwave vial, and then 1 mL of pyridine is added. The reaction mixture is heated in a microwave at 150° C. for 2.5 h. Pyridine is removed under high vacuum. The obtained crude product is purified by a semi-preparative HPLC to give 3.2 mg of pure product as pale yellow solids. MS (ESI) m/z 506.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 0.055 mmol, 36.1 mg | CN1C=2N(C=3C(C1=O)=C(N(N3)CC3=CC=C(C=C3)C3=NC=CC=C3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C29H27N7O
reactant | P4S10 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-thione | 3.2 mg | CN1C=2N(C=3C(C1=S)=C(N(N3)CC3=CC=C(C=C3)C3=NC=CC=C3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C29H27N7S
